US05624842
To a solution of (-)-2-trifluoromethyl-2-methoxy-2-phenylacetic acid (51 mg) in ethyl acetate (10 ml) was added at room temperature N,N'-dicyclohexylcarbodiimide (47 mg). After stirring for 1.5 hours at room temperature, then the FR-900506 substance (25.0 mg) and 4-(N,N-dimethylamino)pyridine (11 mg) were added, followed by stirring at room temperature for 3.5 hours. The resulting solution was concentrated to provide a residue, which was taken up in diethyl ether and then washed successively with hydrochloric acid, an aqueous sodium hydrogen carbonate and an aqueous sodium chloride. The organic layer was dried over sodium sulfate and concentrated to provide a residue, which was chromatographed on silica gel (developing solvent: dichloromethane and diethyl ether, 10:1 v/v) to give 17-allyl-12-[2-[4-[(-)-2-trifluoromethyl-2-methoxy-2-phenylacetoxy]-3-methoxycyclohexyl]-1-methylvinyl]-1,14-dihydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetranone (6.5 mg) and 17-allyl-14-[(-)-2-trifluoromethyl-2-methoxy-2-phenylacetoxy]-12-[2-[4-[(-)-2-trifluoromethyl-2-methoxy-2-phenylacetoxy]-3-methoxycyclohexyl]-1-methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (20.2 mg).

reactant | (-)-2-trifluoromethyl-2-methoxy-2-phenylacetic acid | 51 mg | FC(C(C(=O)O)(C1=CC=CC=C1)OC)(F)F | C10H9F3O3
reactant | N,N'-dicyclohexylcarbodiimide | 47 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | FR-900506 | C[C@@H]1C[C@@H]([C@@H]2[C@H](C[C@H]([C@@](O2)(C(=O)C(=O)N3CCCC[C@H]3C(=O)O[C@@H]([C@@H]([C@H](CC(=O)[C@@H](/C=C(/C1)\C)CC=C)O)C)/C(=C/[C@@H]4CC[C@H]([C@@H](C4)OC)O)/C)O)C)OC)OC | C44H69NO12
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-(N,N-dimethylamino)pyridine | 11 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 17-allyl-14-[(-)-2-trifluoromethyl-2-methoxy-2-phenylacetoxy]-12-[2-[4-[(-)-2-trifluoromethyl-2-methoxy-2-phenylacetoxy]-3-methoxycyclohexyl]-1-methylvinyl]-1-hydroxy-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 20.2 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(C(C2=CC=CC=C2)(OC)C(F)(F)F)=O)OC)C)C)OC(C(C2=CC=CC=C2)(OC)C(F)(F)F)=O)=O | C64H83F6NO16
